US06518423B1
Methyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetimidate hydrochloride
480 mg of (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetonitrile was suspended in a solution of dry methanol (20 ml)/dry dichloromethane and cooled to −20° C. Then dry hydrogen chloride gas was blown thereinto until saturation was attained while paying attention lest the bulk temperature exceed 0° C. Then the reaction mixture was hermetically sealed and allowed to stand under ice-cooling over day and night. Next, the solvent was distilled off under reduced pressure while maintaining the bulk temperature at room temperature or below. Then a small amount of dry methanol was added to the residue and ethyl acetate was gradually added thereto under ultrasonication. The orange crystals thus precipitated were taken up by filtration, washed with diethyl ether and dried under reduced pressure. Thus, 570 mg of the title compound was obtained.

reactant | (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetonitrile | 480 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC#N | C12H8N4S
reactant | methanol | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetimidate hydrochloride | 570 mg | Cl.COC(CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)=N | InChI=1S/C13H12N4OS.ClH/c1-18-11(14)7-8-2-3-10-9(6-8)17-12-13(19-10)16-5-4-15-12;/h2-6,14H,7H2,1H3,(H,15,17);1H
